* Inverting amp with output clipping.
Vin vi 0 PULSE(-1 1 0 20m 1m 1m 20m)

R1 vi n1 1k
RF n1 vo 10k

* Aol=1e5, Vsat+/-=4.5 -- noise gain 11 into a 1V step easily overdrives the
* rails, so most of the waveform should sit clipped. The rise/fall time
* above is deliberately much slower than the other op-amp fixtures use
* (1ms, not 1us).
* nodal_model: CLIPPED OPAMP (Aol=1e5 Vsat+=4.5 Vsat-=-4.5)
Eop vo 0 value={max(min(1e5*(0-V(n1)),4.5),-4.5)} ; nodal_model: CLIPPED pos=0 neg=n1


Escaled vo_scaled 0 value = {V(vo)*0.1} ; netlist_skip

.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
